US07652041B2
Preparation of N-methyl-4-[4-(3-oxo-3-{[3-(trifluoromethyl)phenyl]amino}-propyl)phenoxy]pyridine-2-carboxamide (A-4)
A solution of 3-[4-({2-[(methylamino)carbonyl]pyridin-4-yl}oxy)phenyl]-propanoic acid (270 mg, 0.90 mmol), 3-(trifluoromethyl)aniline (158 mg, 0.98 mmol), HATU (409 mg, 1.07 mmol), and DIPEA (348 mg, 2.69 mmol) in DMF (5 mL) was stirred at rt for 16 h. The reaction mixture was diluted with EtOAc and washed with 1N HCl and brine. The organic solution was dried over MgSO4, filtered, and concentrated to give A-4 as a white solid (127 mg, 32%). 1H NMR (300 MHz, d6-DMSO) δ: 10.28 (s, 1H), 8.76 (m, 1H), 8.47 (d, 1H), 8.08 (br s, 1H), 7.75 (br d, 1H), 7.53 (t, 1H), 7.31-7.42 (m, 4H), 7.08-7.19 (m, 3H), 2.97 (t, 2H), 2.76 (d, 3H), and 2.71 (d, 2H). LCMS, FA: Rt=1.89 min, [MH+ 444.1].

reactant | 3-[4-({2-[(methylamino)carbonyl]pyridin-4-yl}oxy)phenyl]-propanoic acid | 0.90 mmol, 270 mg | CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)CCC(=O)O | C16H16N2O4
reactant | 3-(trifluoromethyl)aniline | 0.98 mmol, 158 mg | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | HATU | 1.07 mmol, 409 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.69 mmol, 348 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-methyl-4-[4-(3-oxo-3-{[3-(trifluoromethyl)phenyl]amino}-propyl)phenoxy]pyridine-2-carboxamide | 127 mg, 32% | CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)CCC(NC1=CC(=CC=C1)C(F)(F)F)=O | C23H20F3N3O3
